US08106070B2
Dess-Martin periodinane (8.01 g, 18.9 mmol) was added to an ambient temperature solution of benzyl {1-(4-bromobenzyl)-2-[(2-hydroxy-4,4-dimethylhexyl)amino]-2-oxoethyl}carbamate (6.35 g, 12.6 mmol) in methylene chloride (200 mL). After stirring at ambient temperature for 2 h, the reaction mixture was quenched with saturated aqueous sodium thiosulfate/saturated aqueous sodium bicarbonate (1:1) and extracted with methylene chloride. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-80% ethyl acetate/hexane afforded benzyl {1-(4-bromobenzyl)-2-[(4,4-dimethyl-2-oxohexyl)amino]-2-oxoethyl}carbamate.

reactant | Dess-Martin periodinane | 18.9 mmol, 8.01 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | benzyl {1-(4-bromobenzyl)-2-[(2-hydroxy-4,4-dimethylhexyl)amino]-2-oxoethyl}carbamate | 12.6 mmol, 6.35 g | BrC1=CC=C(CC(C(=O)NCC(CC(CC)(C)C)O)NC(OCC2=CC=CC=C2)=O)C=C1 | C25H33BrN2O4
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | benzyl {1-(4-bromobenzyl)-2-[(4,4-dimethyl-2-oxohexyl)amino]-2-oxoethyl}carbamate | BrC1=CC=C(CC(C(=O)NCC(CC(CC)(C)C)=O)NC(OCC2=CC=CC=C2)=O)C=C1 | C25H31BrN2O4
